US06057311
a. 2-butyloxycarbonyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole
A solution of 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole(8.96 g, 52 mmol) and di-tert-butyl dicarbonate (11.4 g, 52 mmol) in dioxan (180 ml) was stirred at room temperature for 17 hours. The solvent was evaporated to afford the crude product which was then recrystallised from dichloromethane-hexane. (13.9 g, 98%).

reactant | 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 52 mmol, 8.96 g | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
reactant | di-tert-butyl dicarbonate | 52 mmol, 11.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dioxan | 180 ml | O1CCOCC1 | C4H8O2
product | 2-butyloxycarbonyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | C(CCC)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1 | C16H20N2O2
